US06482829B2
1-(3,5-Bis-trifluoromethyl-benzoyl)-piperidin-4-one
A solution of 3,5-bis-trifluoromethyl-benzoyl chloride (17.4 g, 63 mmol) in dichloromethane (30 mL) was added with cooling to a solution of 4-piperidone trifluoroacetate (13.4 g, 63 mmol) and triethylamine (22 mL, 158 mmol) so that the temperature did not rise above 20° C. Stirring continued for 2 h at room temperature. Water was added, the phases were separated and the water phase was extracted with dichloromethane. The organic phases were pooled, dried with MgSO4 and the solvent was evaporated. Chromatography on silica gel (ethyl acetate/n-hexane 1:1) yielded the desired product (20.2 g, 94%), m.p. 155-157° C. and MS: m/e=339.1 (M+).

reactant | 3,5-bis-trifluoromethyl-benzoyl chloride | 63 mmol, 17.4 g | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
reactant | 4-piperidone trifluoroacetate | 63 mmol, 13.4 g | FC(C(=O)O)(F)F.N1CCC(CC1)=O
reactant | triethylamine | 158 mmol, 22 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-(3,5-Bis-trifluoromethyl-benzoyl)-piperidin-4-one | 20.2 g, 94% | FC(C=1C=C(C(=O)N2CCC(CC2)=O)C=C(C1)C(F)(F)F)(F)F | C14H11F6NO2
